US06218392B1
6-Chloro-1-(4-ethoxycarbonylpiperidino)-4-(3,4-methylenedioxybenzyl)aminophthalazine
A mixture (4.83 g) comprising 1,6-dichloro-4-(3,4-methylenedioxybenzyl)aminophthalazine and 4,6-dichloro-1-(3,4-methylenedioxybenzyl)aminophthalazine was prepared from 1,4,6-trichlorophthalazine (3.38 g) prepared in Preparative Example 7 and piperonylamine (2.21 g) in a similar manner to that of Example 1. The title compound (0.22 g) was prepared from 0.8 g of the mixture in a similar manner to that of Example 3 as a less polar product.

reactant | 1,6-dichloro-4-(3,4-methylenedioxybenzyl)aminophthalazine | ClC1=NN=C(C2=CC(=CC=C12)Cl)NCC1=CC2=C(C=C1)OCO2 | C16H11Cl2N3O2
reactant | 4,6-dichloro-1-(3,4-methylenedioxybenzyl)aminophthalazine | ClC1=NN=C(C2=CC=C(C=C12)Cl)NCC1=CC2=C(C=C1)OCO2 | C16H11Cl2N3O2
reactant | 1,4,6-trichlorophthalazine | 3.38 g | ClC1=NN=C(C2=CC(=CC=C12)Cl)Cl | C8H3Cl3N2
reactant | piperonylamine | 2.21 g | C(C1=CC=2OCOC2C=C1)N | C8H9NO2
product | 6-Chloro-1-(4-ethoxycarbonylpiperidino)-4-(3,4-methylenedioxybenzyl)aminophthalazine | 0.22 g | ClC=1C=C2C(=NN=C(C2=CC1)N1CCC(CC1)C(=O)OCC)NCC1=CC2=C(C=C1)OCO2 | C24H25ClN4O4
